**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT Power Inductor
* Matchcode:              WE-MXGA
* Library Type:           spice
* Version:                rev
* Created/modified by:    Ella
* Date and Time:          8/7/2026
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2026 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt MXGA_4020_78438440200016_0u16 1 2
Rp 1 2 202.082
Cp 1 2 4.634p
Rs 1 N3 0.0015
L1 N3 2 0.140516u
.ends MXGA_4020_78438440200016_0u16
*******
.subckt MXGA_4020_78438440200030_0u3 1 2
Rp 1 2 324.19
Cp 1 2 5.277p
Rs 1 N3 0.002
L1 N3 2 0.263802u
.ends MXGA_4020_78438440200030_0u3
*******
.subckt MXGA_4020_78438440200040_0u4 1 2
Rp 1 2 413.88
Cp 1 2 4.599p
Rs 1 N3 0.0038
L1 N3 2 0.372371u
.ends MXGA_4020_78438440200040_0u4
*******
.subckt MXGA_4020_78438440200065_0u65 1 2
Rp 1 2 600.555
Cp 1 2 6.277p
Rs 1 N3 0.0048
L1 N3 2 0.635459u
.ends MXGA_4020_78438440200065_0u65
*******
.subckt MXGA_4020_7843844020010_1u 1 2
Rp 1 2 862.274
Cp 1 2 7.493p
Rs 1 N3 0.0069
L1 N3 2 0.955225u
.ends MXGA_4020_7843844020010_1u
*******
.subckt MXGA_4020_7843844020012_1u2 1 2
Rp 1 2 1069
Cp 1 2 7.558p
Rs 1 N3 0.0084
L1 N3 2 1.197u
.ends MXGA_4020_7843844020012_1u2
*******
.subckt MXGA_4020_7843844020015_1u5 1 2
Rp 1 2 1155
Cp 1 2 7.265p
Rs 1 N3 0.01
L1 N3 2 1.399u
.ends MXGA_4020_7843844020015_1u5
*******
.subckt MXGA_4020_7843844020018_1u8 1 2
Rp 1 2 1536
Cp 1 2 8.232p
Rs 1 N3 0.0119
L1 N3 2 1.754u
.ends MXGA_4020_7843844020018_1u8
*******
.subckt MXGA_4020_7843844020022_2u2 1 2
Rp 1 2 1823
Cp 1 2 7.977p
Rs 1 N3 0.0156
L1 N3 2 2.287u
.ends MXGA_4020_7843844020022_2u2
*******
.subckt MXGA_4020_7843844020033_3u3 1 2
Rp 1 2 2594
Cp 1 2 9.09p
Rs 1 N3 0.0266
L1 N3 2 3.204u
.ends MXGA_4020_7843844020033_3u3
*******
.subckt MXGA_4020_7843844020047_4u7 1 2
Rp 1 2 3000
Cp 1 2 9.894p
Rs 1 N3 0.0403
L1 N3 2 4.181u
.ends MXGA_4020_7843844020047_4u7
*******
.subckt MXGA_4030_78438440300004_0u04 1 2
Rp 1 2 122.178
Cp 1 2 1.6p
Rs 1 N3 0.0005
L1 N3 2 0.039943u
.ends MXGA_4030_78438440300004_0u04
*******
.subckt MXGA_4030_78438440300010_0u1 1 2
Rp 1 2 224.841
Cp 1 2 2.95p
Rs 1 N3 0.0011
L1 N3 2 0.1u
.ends MXGA_4030_78438440300010_0u1
*******
.subckt MXGA_4030_78438440300016_0u16 1 2
Rp 1 2 207.658
Cp 1 2 3.863p
Rs 1 N3 0.0012
L1 N3 2 0.143659u
.ends MXGA_4030_78438440300016_0u16
*******
.subckt MXGA_4030_78438440300033_0u33 1 2
Rp 1 2 362.754
Cp 1 2 6.056p
Rs 1 N3 0.00201
L1 N3 2 0.304571u
.ends MXGA_4030_78438440300033_0u33
*******
.subckt MXGA_4030_78438440300040_0u4 1 2
Rp 1 2 416.409
Cp 1 2 5.628p
Rs 1 N3 0.00253
L1 N3 2 0.355014u
.ends MXGA_4030_78438440300040_0u4
*******
.subckt MXGA_4030_78438440300062_0u62 1 2
Rp 1 2 618.078
Cp 1 2 7.009p
Rs 1 N3 0.00428
L1 N3 2 0.586049u
.ends MXGA_4030_78438440300062_0u62
*******
.subckt MXGA_4030_7843844030010_1u 1 2
Rp 1 2 938.113
Cp 1 2 7.461p
Rs 1 N3 0.00635
L1 N3 2 0.959313u
.ends MXGA_4030_7843844030010_1u
*******
.subckt MXGA_4030_7843844030012_1u2 1 2
Rp 1 2 1056
Cp 1 2 6.684p
Rs 1 N3 0.00844
L1 N3 2 1.166u
.ends MXGA_4030_7843844030012_1u2
*******
.subckt MXGA_4030_7843844030015_1u5 1 2
Rp 1 2 1263
Cp 1 2 7.911p
Rs 1 N3 0.00877
L1 N3 2 1.47u
.ends MXGA_4030_7843844030015_1u5
*******
.subckt MXGA_4030_7843844030018_1u8 1 2
Rp 1 2 1545
Cp 1 2 9.336p
Rs 1 N3 0.00947
L1 N3 2 1.738u
.ends MXGA_4030_7843844030018_1u8
*******
.subckt MXGA_4030_7843844030022_2u2 1 2
Rp 1 2 1684
Cp 1 2 8.426p
Rs 1 N3 0.01232
L1 N3 2 2.165u
.ends MXGA_4030_7843844030022_2u2
*******
.subckt MXGA_4030_7843844030033_3u3 1 2
Rp 1 2 2405
Cp 1 2 9.025p
Rs 1 N3 0.01641
L1 N3 2 3.227u
.ends MXGA_4030_7843844030033_3u3
*******
.subckt MXGA_4030_7843844030039_3u9 1 2
Rp 1 2 2531
Cp 1 2 10.864p
Rs 1 N3 0.02168
L1 N3 2 3.808u
.ends MXGA_4030_7843844030039_3u9
*******
.subckt MXGA_4030_7843844030047_4u7 1 2
Rp 1 2 3075
Cp 1 2 10.189p
Rs 1 N3 0.02447
L1 N3 2 4.564u
.ends MXGA_4030_7843844030047_4u7
*******
.subckt MXGA_4030_7843844030056_5u6 1 2
Rp 1 2 3488
Cp 1 2 12.29p
Rs 1 N3 0.02731
L1 N3 2 5.374u
.ends MXGA_4030_7843844030056_5u6
*******
.subckt MXGA_4030_7843844030068_6u8 1 2
Rp 1 2 4181
Cp 1 2 12.624p
Rs 1 N3 0.03264
L1 N3 2 6.61u
.ends MXGA_4030_7843844030068_6u8
*******
.subckt MXGA_4030_7843844030082_8u2 1 2
Rp 1 2 4436
Cp 1 2 11.833p
Rs 1 N3 0.04318
L1 N3 2 7.927u
.ends MXGA_4030_7843844030082_8u2
*******
.subckt MXGA_4030_7843844030100_10u 1 2
Rp 1 2 5293
Cp 1 2 10.895p
Rs 1 N3 0.05785
L1 N3 2 9.678u
.ends MXGA_4030_7843844030100_10u
*******
.subckt MXGA_5030_78438450300022_0u22 1 2
Rp 1 2 240.705
Cp 1 2 5.421p
Rs 1 N3 0.0015
L1 N3 2 0.1948u
.ends MXGA_5030_78438450300022_0u22
*******
.subckt MXGA_5030_78438450300047_0u47 1 2
Rp 1 2 466.287
Cp 1 2 7.872p
Rs 1 N3 0.0024
L1 N3 2 0.454048u
.ends MXGA_5030_78438450300047_0u47
*******
.subckt MXGA_5030_78438450300060_0u6 1 2
Rp 1 2 560.165
Cp 1 2 9.058p
Rs 1 N3 0.0028
L1 N3 2 0.521241u
.ends MXGA_5030_78438450300060_0u6
*******
.subckt MXGA_5030_78438450300082_0u82 1 2
Rp 1 2 768.537
Cp 1 2 10.732p
Rs 1 N3 0.0035
L1 N3 2 0.775289u
.ends MXGA_5030_78438450300082_0u82
*******
.subckt MXGA_5030_7843845030010_1u 1 2
Rp 1 2 887.259
Cp 1 2 10.073p
Rs 1 N3 0.0052
L1 N3 2 0.942481u
.ends MXGA_5030_7843845030010_1u
*******
.subckt MXGA_5030_7843845030012_1u2 1 2
Rp 1 2 1033
Cp 1 2 11.795p
Rs 1 N3 0.0045
L1 N3 2 1.186u
.ends MXGA_5030_7843845030012_1u2
*******
.subckt MXGA_5030_7843845030015_1u5 1 2
Rp 1 2 1296
Cp 1 2 13.02p
Rs 1 N3 0.0055
L1 N3 2 1.455u
.ends MXGA_5030_7843845030015_1u5
*******
.subckt MXGA_5030_7843845030022_2u2 1 2
Rp 1 2 1629
Cp 1 2 9.987p
Rs 1 N3 0.0081
L1 N3 2 2.053u
.ends MXGA_5030_7843845030022_2u2
*******
.subckt MXGA_5030_7843845030033_3u3 1 2
Rp 1 2 2408
Cp 1 2 12.063p
Rs 1 N3 0.0129
L1 N3 2 3.429u
.ends MXGA_5030_7843845030033_3u3
*******
.subckt MXGA_5030_7843845030047_4u7 1 2
Rp 1 2 3239
Cp 1 2 12.212p
Rs 1 N3 0.0225
L1 N3 2 4.648u
.ends MXGA_5030_7843845030047_4u7
*******
.subckt MXGA_5030_7843845030056_5u6 1 2
Rp 1 2 3681
Cp 1 2 13.07p
Rs 1 N3 0.0245
L1 N3 2 5.433u
.ends MXGA_5030_7843845030056_5u6
*******
.subckt MXGA_5030_7843845030068_6u8 1 2
Rp 1 2 4591
Cp 1 2 12.543p
Rs 1 N3 0.0283
L1 N3 2 6.571u
.ends MXGA_5030_7843845030068_6u8
*******
.subckt MXGA_5030_7843845030082_8u2 1 2
Rp 1 2 5452
Cp 1 2 15.48p
Rs 1 N3 0.034
L1 N3 2 7.747u
.ends MXGA_5030_7843845030082_8u2
*******
.subckt MXGA_5030_7843845030100_10u 1 2
Rp 1 2 5928
Cp 1 2 17.155p
Rs 1 N3 0.0415
L1 N3 2 9.812u
.ends MXGA_5030_7843845030100_10u
*******
.subckt MXGA_5030_7843845030120_12u 1 2
Rp 1 2 7206
Cp 1 2 16.147p
Rs 1 N3 0.0523
L1 N3 2 12.034u
.ends MXGA_5030_7843845030120_12u
*******
.subckt MXGA_5030_7843845030150_15u 1 2
Rp 1 2 7639
Cp 1 2 17.046p
Rs 1 N3 0.0645
L1 N3 2 14.474u
.ends MXGA_5030_7843845030150_15u
*******
